US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(pyrimidin-5-yl)benzamido)-4-phenylbenzoate (1.1 g) in ethyl acetate (10 mL), methanol (20 mL), and dioxane (20 mL), 10% palladium-carbon (0.57 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 20 minutes. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 70-0% hexane/ethyl acetate] to obtain 0.73 g of tert-butyl 2-(2-hydroxy-5-(pyrimidin-5-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyrimidin-5-yl)benzamido)-4-phenylbenzoate | 1.1 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1C=NC=NC1 | C35H31N3O4
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-carbon | 0.57 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(pyrimidin-5-yl)benzamido)-4-phenylbenzoate | 0.73 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1C=NC=NC1 | C28H25N3O4
